US04006144
36 g of 3-amino-4-(phenylthio)-benzotrifluoride, 70 ml of water and 21 ml of methanesulphonic acid are heated to 90° C, stirred at this temperature for 20 minutes and subsequently cooled to 0° C. The suspension obtained is treated dropwise over a period of 15 minutes at 0° C with a solution of 9.25 g of sodium nitrite in 33 ml of water, care being taken to ensure that the temperature does not rise above 10° C. The mixture is stirred for about 1 hour at 0° C, filtered and added over a period of about 45 minutes to a suspension of copper cyanide pre-warmed to 100° C (prepared by the addition of 33.75 g of copper sulphate to 37 g of potassium cyanide in 165 ml of water). The dark solution obtained is stirred at 100° C for 1 hour, cooled, treated with 350 ml of benzene and stirred overnight. The mixture is filtered through diatomaceous earth and the filter cake washed with benzene. The organic phase is washed twice with 150 ml of saturated sodium chloride solution each time, dried over sodium sulphate, filtered and evaporated. There is obtained 2-(phenylthio)-5-trifluoromethyl-benzonitrile as a dark oil.

reactant | 3-amino-4-(phenylthio)-benzotrifluoride | 36 g | NC=1C=C(C=CC1SC1=CC=CC=C1)C(F)(F)F | C13H10F3NS
reactant | methanesulphonic acid | 21 ml | CS(=O)(=O)O | CH4O3S
reactant | sodium nitrite | 9.25 g | N(=O)[O-].[Na+]
reactant | benzene | 350 ml | C1=CC=CC=C1 | C6H6
solvent | water | 33 ml | O | H2O
solvent | water | 70 ml | O | H2O
product | 2-(phenylthio)-5-trifluoromethyl-benzonitrile | C1(=CC=CC=C1)SC1=C(C#N)C=C(C=C1)C(F)(F)F | C14H8F3NS
